US09056865B2
Step 7: 5-chloro-4-(3-methylpyridin-2-yl)-2-(4-(methylsulfonylmethyl)piperidin-1-yl)pyrimidine
To a mixture of 5-chloro-4-(3-methylpyridin-2-yl)-2-(methylsulfonyl)pyrimidine and 5-chloro-4-(3-methylpyridin-2-yl)-2-(methylsulfinyl)pyrimidine (300 mg, 1.05 mmol) in DMSO (15 mL) was added 4-(methylsulfonylmethyl)piperidine (440 mg, 1.65 mmol) and CsF (640 mg, 4.2 mmol). The resulting mixture was heated at 100° C. at microwave for 30 min. TLC (CH2Cl2:MeOH=10:1) indicated that the reaction was complete. The mixture was then treated with EtOAc (50 mL) and H2O (50 mL). The layers were separated and the aqueous layer was then extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine (30 mL), dried over Na2SO4 and filtered. The filtrate was concentrated and the residue was purified via prep. HPLC to give title compound (183 mg, 46%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 8.47-8.48 (d, 1H), 8.28 (s, 1H), 7.55-7.56 (dd, 1H), 7.20-7.24 (m, 1H), 4.66-4.69 (d, 1H), 2.88-2.92 (m, 7H), 2.30-2.34 (m, 1H), 2.18 (s, 3H), 1.94-1.97 (m, 2 H), 1.26-1.37 (m, 2H); m/z for C17H21ClN4O2S 381.4 (M+H)+.

reactant | 5-chloro-4-(3-methylpyridin-2-yl)-2-(methylsulfonyl)pyrimidine | ClC=1C(=NC(=NC1)S(=O)(=O)C)C1=NC=CC=C1C | C11H10ClN3O2S
reactant | 5-chloro-4-(3-methylpyridin-2-yl)-2-(methylsulfinyl)pyrimidine | 1.05 mmol, 300 mg | ClC=1C(=NC(=NC1)S(=O)C)C1=NC=CC=C1C | C11H10ClN3OS
reactant | 4-(methylsulfonylmethyl)piperidine | 1.65 mmol, 440 mg | CS(=O)(=O)CC1CCNCC1 | C7H15NO2S
reactant | CsF | 4.2 mmol, 640 mg | [F-].[Cs+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | H2O | 50 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-chloro-4-(3-methylpyridin-2-yl)-2-(4-(methylsulfonylmethyl)piperidin-1-yl)pyrimidine | 183 mg, 46% | ClC=1C(=NC(=NC1)N1CCC(CC1)CS(=O)(=O)C)C1=NC=CC=C1C | C17H21ClN4O2S
